US08044043B2
2-(tert-butyldimethylsilyloxy)-5-(2,3-difluorophenyl)cycloheptanol.
In a 250 mL round-bottomed flask (t=g) was added 5-(2,3-difluorophenyl)cycloheptane-1,2-diol (1.454 g, 6.0 mmol) (crude material, azeotroped with dry benzene) in DMF (20 mL) to give a colorless solution. TBS-Cl (0.995 g, 6.60 mmol) and imidazole (0.980 g, 14.40 mmol) were added, and the mixture was stirred at room temperature for 5 hours. TLC (2/1 hexane/EtOAc) indicated complete conversion to two main spots. It was diluted with water and extracted with EtOAc twice. The combined organic layers were washed with brine, dried with Na2SO4 and concentrated to a colorless oil. Purification by FCC up to 30% EtOAc/hexane afforded the desired mono-protected product as a broad peak. The product fractions were pooled and concentrated to a colorless oil (1.79 g, 84% for two steps). 1H NMR (400 MHz, CDCl3) δ 7.02-6.85 (m, 3H), 3.98-3.70 (m, 2H), 3.18-3.02 (m, 1H), 2.15-1.82 (m, 4H), 1.80-1.45 (m, 4H), 0.91 (s, 9H), 0.90 (2s, 6H).

reactant | 5-(2,3-difluorophenyl)cycloheptane-1,2-diol | 6.0 mmol, 1.454 g | FC1=C(C=CC=C1F)C1CCC(C(CC1)O)O | C13H16F2O2
reactant | TBS-Cl | 6.60 mmol, 0.995 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 14.40 mmol, 0.980 g | N1C=NC=C1 | C3H4N2
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(tert-butyldimethylsilyloxy)-5-(2,3-difluorophenyl)cycloheptanol | [Si](C)(C)(C(C)(C)C)OC1C(CCC(CC1)C1=C(C(=CC=C1)F)F)O | C19H30F2O2Si
